US05726172
To a stirred solution of methyl 4-hydroxy-2-methoxybenzoate (413.1 mg, 2.27 mmol) in dry THF (4.5 mL) was added triphenylphosphine (596.1 mg, 2.27 mmol) and the solution was cooled to 0° C. A 2.5 mL volume of sulfonylchroman-4-ol (300 mg, 1.52 mmol) and diethyl azodicarboxylate (357.5 μL, 2.27 mmol) in THF was added dropwise via addition funnel over 0.5 h. The reaction was filtered and the solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column packed in 70:30 hexanes:EtOAc and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to afford methyl 4-[4-sulfonylchromanoyloxy]-2-methoxybenzoate.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 2.27 mmol, 413.1 mg | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | triphenylphosphine | 2.27 mmol, 596.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sulfonylchroman-4-ol | 1.52 mmol, 300 mg | S(=O)(=O)=C1OC2=CC=CC=C2C(C1)O | C9H8O4S
reactant | diethyl azodicarboxylate | 2.27 mmol, 357.5 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | methyl 4-[4-sulfonylchromanoyloxy]-2-methoxybenzoate | S(=O)(=O)=C1CC(OC2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C19H16O8S
